Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
LUTS
 
Major Surgical or Invasive Procedure:
Bipolar Transurethral Resection of Prostate 

 
History of Present Illness:
Mr. ___  was seen today for
follow up evaluation of his voiding and epididymoorchitis. He 
was
seen in ___ EU in ___ with infection of his left 
testicle
and was started on 10 day course of Cipro. 4 days later he
experienced urinary retention for which he represented to the ED
and had a Foley catheter placed. He was last seen in clinic 1
month ago, at which time he was continued on 21 day of cipro due
to persistent epididymo-orchitis. He presents today after a
follow up US. 

Regarding his LUTS, he is taking Tamsulosin 0.8 daily and
finasteride. He reports voiding symptoms are stable.

He had a follow up scrotal ultrasound 2 days ago to evaluate
epididymo-orchitis. See report below. He has no pain and feels
his left testicle is now normal in size. He denies any
fevers/chills, dysuria, and gross hematuria. 

Scrotal ultrasound impression ___:
Again noted is left epididymo-orchitis with associated 
testicular
abscess formation.  There is only minimal interval improvement
compared to prior imaging as well as persistent hypervascularity
of the testis and epididymis which is concerning for residual
infection. 
Follow-up imaging to ensure resolution and exclude underlying
testicular mass is recommended. 

Scrotal ultrasound impression ___:
Findings indicate persistent and marked epididymal orchitis in
the left
hemiscrotum.  Focal masslike area within the testis is likely a
hematoma or
infected focus, particularly since there was no focal 
abnormality
on the
initial scans in ___.  There is no evidence of any
resolution of the
epididymal orchitis.

Scrotal US impression ___:
 
Similar appearance of the known epididymo-orchitis to the left
testis and
epididymis compared to most recent ultrasound.  There is 
improved
appearance
compared to previous the ultrasound from ___. 
Although the left
testis and epididymis demonstrates persistent increased
vascularity compared
to the right there is improved, slightly decreased vascularity
compared to
prior ultrasound.

PVR ___: 168 ml
PVR ___: 185 ml
PVR ___: 185cc
 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Gen: NAD
CV: RRR
Resp: non labored resps
Abd: soft, NT ND no suprapubic tenderness
Urine: foley draining clear pink urine
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis. The patient's postoperative course was 
uncomplicated. He received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
voiding trial.  Post void residuals were checked. His urine was 
clear and and without clots. He remained a-febrile throughout 
his hospital stay.  At discharge, the patient had pain well 
controlled with oral pain medications, was tolerating regular 
diet, ambulating without assistance, and voiding without 
difficulty.  He was given pyridium and oral pain medications on 
discharge and a course of antibiotics along with explicit 
instructions to follow up in clinic with Dr. ___. 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain-Mild/Fever >100   
2.  Bacitracin Ointment 1 Appl TP QID  
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*1 
4.  Phenazopyridine 100 mg PO Q8H:PRN dysuria/urgency Duration: 
3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*60 Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Benign Prostatic Hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure.

·     DO drink plenty of water to flush out the bladder.

·     DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated.

·     Don't take blood-thinning medications until your doctor 
says it's OK.

·     Don't do any strenuous activity, such as heavy lifting, 
for four to six weeks or until your doctor says it's OK.

·     Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks.

·     Don't drive until your doctor says it's OK. ___, you 
can drive once your catheter is removed and you're no longer 
taking prescription pain medications.

 

·     You may continue to periodically see small amounts of 
blood in your urine--this is normal and will gradually improve. 
You may have clear or yellow urine that periodically turns 
pink/red throughout the healing process. Generally, the 
discoloration of the urine is “OK” unless it transitions from 
___ Aid to a very dark, thick or “like 
tomato juice” color

 

·     Resume your pre-admission/home medications EXCEPT as 
noted. You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

 

·     Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days. Your medication reconciliation will note if 
you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

 

·     -an ointment like bacitracin/Neosporin or "triple 
antibiotic" ointment is recommended for comfort at urethral 
meatus where the foley catheter inserts. Apply the ointment for 
comfort ___ x daily if needed.

 

·     If needed, you will be prescribed an antibiotic to 
continue after discharge or save until your Foley catheter is 
removed (called a “trial of void” or “void trial”). 

 

·     You may be discharged home with a medication called 
PYRIDIUM that will help with the "burning" pain you may 
experience when voiding. This medication may turn your urine 
bright orange.

 

·     Colace has been prescribed to avoid post surgical 
constipation and constipation related to narcotic pain 
medication. Discontinue if loose stool or diarrhea develops. 
Colace is a stool softener, NOT a laxative, and it is available 
over-the-counter

 

·     AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

 

·     No vigorous physical activity or sports for 4 weeks or 
until otherwise advised

 

·     Do not lift anything heavier than a phone book (10 pounds) 
or participate in high intensity physical activity (which 
includes intercourse) for a minimum of four weeks or until you 
are cleared by your Urologist in follow-up

 

·     Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.

 

·     The maximum daily Tylenol/Acetaminophen dose is 3 grams 
from ALL sources.

 

·     Do not drive or drink alcohol while taking narcotics and 
do not operate dangerous machinery. 
 
Followup Instructions:
___